US07842688B2
e) Benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(3-nitrobenzyloxy)piperidine-1-carboxylate
The solution of 0.512 g of benzyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.355 g of 3-nitrobenzyl chloride in 3.0 ml of N,N-dimethylformamide is admixed with stirring at −10° C. with 0.022 g of sodium hydride dispersion (60%). The reaction mixture is stirred at −10° C. over 2.5 hours, then poured onto 1M aqueous sodium hydrogencarbonate solution (25 ml) and extracted with ethyl acetate (2×25 ml). The organic phases are washed successively with water (2×25 ml) and brine (1×25 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.35 (1:1 EtOAc-heptane); Rt=5.94.

reactant | benzyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.512 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C30H35NO6
reactant | 3-nitrobenzyl chloride | 0.355 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | sodium hydride | 0.022 g | [H-].[Na+]
reactant | sodium hydrogencarbonate | 1M, 25 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | Benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(3-nitrobenzyloxy)piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC2=CC(=CC=C2)[N+](=O)[O-])C=CC=C1 | C37H40N2O8
